US06403595B1
4-Benzyloxycarbonyl-2-piperazinone
A mixture of 2-piperazinone (10 g), benzyl chlorocarbonate (20.5 g), sodium carbonate (31.8 g), ethyl acetate (200 ml) and water (200 ml) was stirred at room temperature for 2 hours. The organic layer was separated, washed with saturated brine, dried (MgSO4) and concentrated. The resulting crystals was filtered, washed with ethyl acetate-ether and dried to give colorless crystals of the title compound (18.5 g).

reactant | 2-piperazinone | 10 g | N1C(CNCC1)=O | C4H8N2O
reactant | benzyl chlorocarbonate | 20.5 g | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | sodium carbonate | 31.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | 4-Benzyloxycarbonyl-2-piperazinone | 18.5 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
